US09035059B2
N-(4-Fluorophenyl)-2-(trifluoroacetyl)-2,3-dihydro-1 H-isoindole-5-sulfonamide
Pyridine (2.57 mL, 31.9 mmol) and dimethylaminopyridine (195 mg, 1.59 mmol) were added to a solution of 4-fluoroaniline (1.86 g, 16.7 mmol) in chloroform (46 mL) at room temperature and the mixture was cooled in ice. 2-(Trifluoroacetyl)-2,3-dihydro-1 H-isoindole-5-sulfonyl chloride (5.00 g, 15.9 mmol) was added thereto and the mixture was warmed to room temperature and stirred for 15 hr. The reaction mixture was concentrated under reduced pressure and the residue was diluted with ethyl acetate. The mixture was washed with 1 mol/L hydrochloric acid and brine, the organic layer was dried over anhydrous magnesium sulfate, and then the desiccant was filtered off, followed by concentration under reduced pressure. The resulting residue was powdered with diethyl ether and collected by filtration to afford the title compound as a pale pink powder (5.85 g).

reactant | Pyridine | 31.9 mmol, 2.57 mL | N1=CC=CC=C1 | C5H5N
reactant | dimethylaminopyridine | 1.59 mmol, 195 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 4-fluoroaniline | 16.7 mmol, 1.86 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 2-(Trifluoroacetyl)-2,3-dihydro-1 H-isoindole-5-sulfonyl chloride | 15.9 mmol, 5.00 g | FC(C(=O)N1CC2=CC=C(C=C2C1)S(=O)(=O)Cl)(F)F | C10H7ClF3NO3S
solvent | chloroform | 46 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(4-Fluorophenyl)-2-(trifluoroacetyl)-2,3-dihydro-1 H-isoindole-5-sulfonamide | 5.85 g | FC1=CC=C(C=C1)NS(=O)(=O)C=1C=C2CN(CC2=CC1)C(C(F)(F)F)=O | C16H12F4N2O3S
